US07807672B2
Preparation of 4-(5-Pyrimidin-2-yl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
A round bottom flask containing 4-(5-bromo-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (100 mg, 0.29 mmol), 2-tributylstannanyl-pyrimidine (130 mg, 0.36 mmol), cesium fluoride (85 mg, 0.56 mmol) and palladium di-tert-butylphosphine was degassed three times with Ar. Dioxane was added and the formed reaction mixture was stirred at 90° C. overnight under Ar. Then the reaction mixture was filter through celite and the solvent was removed under vacuum and crude product was used directly in the next step.

reactant | 4-(5-bromo-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.29 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)Br | C12H18BrN3O2S
reactant | 2-tributylstannanyl-pyrimidine | 0.36 mmol, 130 mg | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | cesium fluoride | 0.56 mmol, 85 mg | [F-].[Cs+]
catalyst | palladium di-tert-butylphosphine | C(C)(C)(C)PC(C)(C)C.[Pd]
product | 4-(5-Pyrimidin-2-yl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C1=NC=CC=N1 | C16H21N5O2S
